US07645789B2
A mixture of methyl 4-(2-butyramido-5-nitrophenyl)-2,2-dimethylbut-3-ynoate (0.50 g, 1.5 mmol) and TBAF (790 mg, 3.0 mmol) in DMF (20 mL) was heated at 70° C. for 24 h. The reaction mixture was cooled to room temperature and poured into ice water. The mixture was extracted with ether (30 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under reduced pressure to give a residue, which was purified by column chromatography on silica gel (petroleum ether/ethyl acetate=20/1) to give 2-isopropyl-5-nitro-1H-indole (100 mg, 33%). 1H NMR (400 MHz, CDCl3) δ 8.68 (s, 1H), 8.25 (br s, 1H), 8.21 (dd, J=2.4, 10.0 Hz, 1H), 7.32 (d, J=8.8 Hz, 1H), 6.41 (s, 1H), 3.07-3.14 (m, 1H), 1.39 (d, J=6.8 Hz, 6H).

reactant | methyl 4-(2-butyramido-5-nitrophenyl)-2,2-dimethylbut-3-ynoate | 1.5 mmol, 0.50 g | C(CCC)(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])C#CC(C(=O)OC)(C)C | C17H20N2O5
reactant | TBAF | 3.0 mmol, 790 mg | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-isopropyl-5-nitro-1H-indole | 100 mg, 33% | C(C)(C)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C11H12N2O2
